US09062045B2
2-fluoro-5-(1-methyl-1H-pyrazol-4-yl)pyridine (E.i)
A mixture of 5-bromo-2-fluoropyridine (1.75 g, 9.94 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (2.069 g, 9.94 mmol), Pd(PPh3)4 (1.149 g, 0.994 mmol) and K2CO3 (2.75 g, 19.89 mmol) in 1,4-dioxane (20 ml) was bubbled with argon for 10 min. The suspension was then stirred at 90° C. for 8 h. The mixture was filtered and the filtrate was diluted with EA, washed with water and brine. The organic phase was dried over anhydrous MgSO4, filtered and concentrated. The residue was recrystallized from MeOH to give the title compound as white solid (1.2 g, 61.3% yield). 1H-NMR (400 MHz, DMSO-d6) δ ppm 8.46 (s, 1H), 8.22 (s, 1H), 8.15 (dd, 1H), 7.93 (s, 1H), 7.18 (dd, 1H). LCMS (method B): [M+H]+=178, tR=1.80 min.

reactant | 5-bromo-2-fluoropyridine | 9.94 mmol, 1.75 g | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 9.94 mmol, 2.069 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | K2CO3 | 19.89 mmol, 2.75 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.994 mmol, 1.149 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-fluoro-5-(1-methyl-1H-pyrazol-4-yl)pyridine | 1.2 g, 61.3% yield | FC1=NC=C(C=C1)C=1C=NN(C1)C | C9H8FN3
